US08859782B2
5,5-Dimethyl-3-phenylpyrrolidine-2,4-dione
Under argon, in a heat-dried apparatus, 23 mg of Pd(OAc)2, 69 mg of di-tert-butyl(2′-methylbiphenyl-2-yl)phosphine and 2.44 g of K3PO4 in 15 ml of air-free dioxane are introduced as initial charge. 763 mg of 5,5-dimethylpyrrolidine-2,4-dione and 785 mg of bromobenzene are added and the mixture is stirred for 16 hours under reflux. The mixture is then left to cool to room temperature, diluted with 20 ml of methanol and filtered, and the filter residue is after-washed with 10 ml of MeOH. The combined filtrates are concentrated by evaporation on a rotary evaporator. The residue is taken up in 20 ml of water and rendered weakly acidic using dilate hydrochloric acid. The precipitated solid is filtered off with suction and washed with 10 ml of water. It is then washed from the filter with acetone and the filtrate is concentrated by evaporation. This gives 1.01 g of solid with a purity of 93.8% according to GC/MS.

reactant | di-tert-butyl(2′-methylbiphenyl-2-yl)phosphine | 69 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C(C)(C)C | C21H29P
reactant | K3PO4 | 2.44 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 5,5-dimethylpyrrolidine-2,4-dione | 763 mg | CC1(C(CC(N1)=O)=O)C | C6H9NO2
reactant | bromobenzene | 785 mg | BrC1=CC=CC=C1 | C6H5Br
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd(OAc)2 | 23 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5,5-Dimethyl-3-phenylpyrrolidine-2,4-dione | CC1(C(C(C(N1)=O)C1=CC=CC=C1)=O)C | C12H13NO2
